US04202990
The reaction was performed for two hours by adding 172.2 g (2.0 moles) of methyl acrylate in the apparatus of Example 1 instead of the methyl methacrylate. The results of the experiment were 98.4% conversion of n-butanol and 97.6% yield of n-butyl acrylate. When this ester was distilled in the same manner as in Example 1, it was recovered in a 96.6% yield.

reactant | methyl acrylate | 2.0 moles, 172.2 g | C(C=C)(=O)OC | C4H6O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl acrylate | 97.6% yield | C(C=C)(=O)OCCCC | C7H12O2
